US08357635B2
To a stirred solution of trans 1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethanone (1.0 g; 5.0 mmol) in methanol (10 ml) at ambient temperature was added pyridine (0.85 ml; 10.3 mmol) and methoxyamine hydrochloride (0.86 g; 10.3 mmol). The reaction mixture was stirred for 20 hours at ambient temperature then poured on water (50 ml) and extracted with dichloromethane (3×20 ml). Combined organic layers were dried over anhydrous sodium sulphate. The solvent was removed in vacuo to afford 1.0 g (92% of theory) of trans 1-[2-(5-Chloro-thiophen-2-yl)-cyclopropyl]-ethanone O-methyl-oxime as an E/Z mixture in form of a clear oil.

reactant | trans 1-[2-(5-chloro-thiophen-2-yl)-cyclopropyl]-ethanone | 5.0 mmol, 1.0 g | ClC1=CC=C(S1)[C@H]1[C@@H](C1)C(C)=O | C9H9ClOS
reactant | pyridine | 10.3 mmol, 0.85 ml | N1=CC=CC=C1 | C5H5N
reactant | methoxyamine hydrochloride | 10.3 mmol, 0.86 g | Cl.CON
solvent | methanol | 10 ml | CO | CH4O
product | trans 1-[2-(5-Chloro-thiophen-2-yl)-cyclopropyl]-ethanone O-methyl-oxime | 1.0 g, 92% | CON=C(C)[C@H]1[C@@H](C1)C=1SC(=CC1)Cl | C10H12ClNOS
